US03963718
3.4 parts of p-chloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol are added to 30 parts of sulfuric acid 80% while stirring and cooling in an ice-bath. Upon completion, the whole is stirred for 2 hours at room temperature. The reaction mixture is poured onto crushed ice, alkalized with a concentrated sodium hydroxide solution and the product in base form is extracted with methylene chloride. The extract is dried, filtered and evaporated. The residue is dissolved in 2-propanol. The solution is filtered over diatomaceous silica and the filtrate is acidified with an excess of 2-propanol previously saturated with gaseous hydrogen chloride. The precipitated salt is filtered off, washed with acetone and dried, yielding 5-(p-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride, m.p. 266.1°C.

reactant | p-chloro-α-(2-imidazolin-2-ylaminomethyl)benzyl alcohol | ClC1=CC=C(C(CNC=2NCCN2)O)C=C1 | C11H14ClN3O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-(p-chlorophenyl)-2,3,5,6-tetrahydro-1H-imidazo[1,2-a]imidazole hydrochloride | Cl.ClC1=CC=C(C=C1)C1CN=C2N1CCN2 | InChI=1S/C11H12ClN3.ClH/c12-9-3-1-8(2-4-9)10-7-14-11-13-5-6-15(10)11;/h1-4,10H,5-7H2,(H,13,14);1H
